US07271262B2
(4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-[3-(2,5-difluoro-benzylamino)-phenyl]-methanone
2,5-difluorobenzaldehyde (88.1 mg, 0.62 mmol) was added to a solution of (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-amino-phenyl)-methanone (100 mg, 0.31 mmol) and AcOH (18.6 mg, 0.31 mmol) in MeOH (10 mL). After 5 min NaCNBH3 was added. After 3 h the reaction was quenched with 1N NaOH. The aqueous layer was extracted with EtOAc (2×). The combined organic layers were washed with water, dried over MgSO4, and concentrated. Purification by flash column chromatography (CH2Cl2/MeOH 98:2) afforded the title compound as a white solid (80 mg, 58%). MS: 448.1 (MH+); HPLC Rf: 6.59 min. (HPLC method 4).

reactant | 2,5-difluorobenzaldehyde | 0.62 mmol, 88.1 mg | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-amino-phenyl)-methanone | 0.31 mmol, 100 mg | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=CC=C2)N)C2CCCC2 | C18H19N5O
reactant | AcOH | 0.31 mmol, 18.6 mg | CC(=O)O | C2H4O2
reactant | NaCNBH3 | [BH3-]C#N.[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-[3-(2,5-difluoro-benzylamino)-phenyl]-methanone | 80 mg, 58% | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=CC=C2)NCC2=C(C=CC(=C2)F)F)C2CCCC2 | C25H23F2N5O
